US07037935B2
A mixture of 0.70 g (2.8 mmol) of 2-(4-fluoro-benzyloxy)-5-nitro-pyridine and 2.36 g (4.2 mmol) of iron powder in 35 ml of water and 0.7 ml of acetic acid is heated under reflux for 4 hours. For the working-up, the reaction mixture is treated under vigorous stirring with water and ethyl acetate, thereafter, filtered over a layer of Dicalit. The organic layer is separated, dried over sodium sulfate and evaporated under reduced pressure. There are obtained 0.28 g (45% of theory) of 6-(4-fluoro-benzyloxy)-pyridin-3-ylamine as a greenish solid which is engaged in the next step without further purification.

reactant | 2-(4-fluoro-benzyloxy)-5-nitro-pyridine | 2.8 mmol, 0.70 g | FC1=CC=C(COC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C12H9FN2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 4.2 mmol, 2.36 g | [Fe] | Fe
product | 6-(4-fluoro-benzyloxy)-pyridin-3-ylamine | 0.28 g, 45% | FC1=CC=C(COC2=CC=C(C=N2)N)C=C1 | C12H11FN2O
